US04208202
(b) 1,3-Dichloro-4,6-diaminobenzene
87.0 g (0.37 mol) of 1,3-dichloro-4,6-dinitrobenzene are dissolved in 1.5 liters of dioxane and, after adding a total of 100 g of Raney Ni, hydrogenated at 40° to 80° C. The catalyst is filtered off and washed with dioxane and the filtrate is concentrated. The product obtained in this way is recrystallised from hexane/toluene. Yield: 40.6 g; melting point 138°-141° C.

reactant | 1,3-dichloro-4,6-dinitrobenzene | 0.37 mol, 87.0 g | ClC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])Cl | C6H2Cl2N2O4
solvent | dioxane | 1.5 liters | O1CCOCC1 | C4H8O2
catalyst | Ni | [Ni] | Ni
product | 1,3-Dichloro-4,6-diaminobenzene | ClC1=CC(=C(C=C1N)N)Cl | C6H6Cl2N2
